US07482366B2
Dithiocarbonic acid S-(3-bromo-5-trifluoromethyl-phenyl)ester O-ethyl ester (3.3 g, 10.3 mmoles) was dissolved into 30 mL of EtOH, 10 mL of H2O, and was sealed under nitrogen. To this stirring mixture was added KOH (2.8 g, 50 mmoles) and this mix was stirred at reflux (under nitrogen) for 12 hours. After this period the reaction mixture was evaporated in vacuo and combined with 50 mL of water. The pH was adjusted to <2 using 6N HCl and the resulting mixture was extracted with diethyl ether (3×50 mL). The combined ethereal layer was washed with brine and dried over anhydrous MgSO4. Following evaporation in vacuo the crude thiol was dissolved into 50 mL of acetone. Ethyl bromide (1.5 mL, 20.1 mmoles) and K2CO3 (5 g, 36.2 mmoles) were added, and the mixture was stirring at ambient temperature (under nitrogen) for 6 hours. After this period the mixture was gravity filtered, and evaporated in vacuo to yield crude product. The crude product was purified using flash silica chromatography (0-1% EtOAc/Hexane) to yield 1-bromo-3-ethylsulfanyl-5-trifluoromethyl-benzene (1.33 g, 45% yield) as a yellowish liquid. 1H-NMR (CDCl3): δ 7.56 (s, 1H), 7.52 (s, 1H), 7.43 (s, 1H), 3.0 (q, J=7.3 Hz, 2H), 1.36 (t, J=7.3 Hz, 3H).

reactant | Dithiocarbonic acid S-(3-bromo-5-trifluoromethyl-phenyl)ester O-ethyl ester | 10.3 mmoles, 3.3 g | C(C)OC(SC1=CC(=CC(=C1)C(F)(F)F)Br)=S | C10H8BrF3OS2
reactant | KOH | 50 mmoles, 2.8 g | [OH-].[K+]
reactant | Ethyl bromide | 20.1 mmoles, 1.5 mL | C(C)Br | C2H5Br
reactant | K2CO3 | 36.2 mmoles, 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 10 mL | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 1-bromo-3-ethylsulfanyl-5-trifluoromethyl-benzene | 1.33 g, 45% yield | BrC1=CC(=CC(=C1)C(F)(F)F)SCC | C9H8BrF3S
